2128-10-29 07:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - spoke to TEE/EP fellow regarding plans for TEE/DCCV today
   - stopped lasix drip(prn bolus) after 1 hour and amio drip (po)
   - 1 40mg bolus of lasix given
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Metoprolol - [**2128-10-28**] 04:50 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-10-29**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.2
C (97.1
   HR: 110 (83 - 131) bpm
   BP: 129/72(82) {105/44(62) - 160/94(98)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.5 kg (admission): 107.5 kg
    CVP: 14 (14 - 18)mmHg
   Total In:
                                                                  1,077 mL
                                                                    104 mL
   PO:
                                                                    870 mL
   TF:
   IVF:
                                                                    207 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    525 mL
   Urine:
                                                                  1,600 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -523 mL
                                                                   -421 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///34/
   Physical Examination
   GEN: NAD
   CV: irregular rhythm, tachycardic, no mrg
   RESP: mild rales
   ABD: S, NT/ND, +BS
   EXT: WWP, 2+ pulses
   Labs / Radiology
   104 mg/dL
   1.1 mg/dL
   34 mEq/L
   4.0 mEq/L
   21 mg/dL
   100 mEq/L
   141 mEq/L
   38.0 %
        [image002.jpg]
                             [**2128-10-28**]  04:01 PM
   Hct
   38.0
   Cr
   1.1
   Glucose
   104
   Other labs: PT / PTT / INR:/74.9/, Ca++:9.0 mg/dL, Mg++:2.9 mg/dL
   Assessment and Plan
   In brief this is a 74 year old man with history of HTN, COPD and CHF
   who is transfered for management of AF, decompenstated diastolic CHF
   and moderate MR.
   .
   # RHYTHM: Atrial fibrillation: Apparently new onset since [**2128-10-14**],
   however his most recent ECG prior to this was in [**2119**]. Also pt is a
   poor historian. Likely precipitant of afib is CHF exacurbation.
   Alternative etiologies include thyroid dysfunction(normal function on
   OSH labs) and less likley infection. Currently on rate/rhythm control
   with BB, digoxin and amiodarone. Anticoagulated with heparin ggt (CHADS
   [**2-25**], note unclear h/o CVA).
   - continue rate/rhythm control(lopressor); transition to po regimen
   overnight
   - continue amiodarone loading
   - monitor digoxin level(1.2)
   - Heparin/warfarin s/p cardioversion
   - DCCV/w/TEE for further eval of MR in am
   -?wether anesthesia will come to CCU
   .
   # PUMP:Decompensated diastolic (and possibly systolic if 55% is true,
   with moderate MR <60 = systolic dysfunction) LV dysfunction, on
   presentation at OSH, now nearing euvolemia: The exact etiology of the
   exacurbation is not known. The most concerning precipitant is worsening
   mitral regurgitation, although this may be precipitated by  dietary or
   medication noncompliance or gut edema and poor absorbtion. TTE showed
   preserved systolic function. However, given his severe MR it is
   possible that his has systolic dysfunction as well (and the EF is
   underestimated by TTE since some of the flow is regurgitant). No
   baseline TTE available to determine progression of his LV dysfunction.
   Currently nearing euvolemia. His weight has improved by aprx 30 lb
   since initiation of furosemide ggt.
   - continue diuresis with furosemide 40mg [**Hospital1 7**]; transition to oral
   regimen tonight; if necessary would add metolazone.
   - monitor i/o (goal negative -1L), [**Hospital1 7**] lytes, check CXR on admission
   - afterload reduction goal SBP<120; continue BB and uptitrate as
   tolerated, captopril.
   .
   # VALVES: Mitral regurgitation: Most likely this is a chronic process
   vs. acute [**Hospital1 11251**] muscle rupture or flail leaflet, although no
   records available to support this. I suspect age relate change is the
   most likely etiology. A history of RHD is not reported. No evidence of
   ischemic disease at OSH to suggest acute MR [**First Name (Titles) 3415**] [**Last Name (Titles) 11251**] mm rupture,
   but he has not been evaluated in past.
   - plan for TEE in am to better eval MR given poor windows on TTE
   - consider c. catheterization to eval for CAD
   - CT [**Doctor First Name 213**] c/s once MS clears
   .
   # CORONARIES: No prior history of CAD, EKG without evidence of ischemia
   current or prior.
   - plan for cardiac cath
   - check lipid panel, HBA1c to risk stratify.
   - continue aspirin, BB
   .
   # Delirium: Disoriented and combative in the setting of acute illness.
   Likely ICU delirium vs. toxic metabolic cause. Possibly medication
   induced. Unclear baseline mental status as lives alone and had poor
   grooming on admission at OSH.
   - regulate sleep/wake cycle
   - monitor metabolic and blood profiles
   - check RPR, B12, folate
   - haldol if needed for acute agitation, would avoid benzos if at all
   possible
   - PRN seroquel [**Doctor First Name **], avoid restraints
   - PT consult for OOB to chair
   - discuss baseline with sister
   .
   # HTN: Blood pressure waxing and [**Doctor Last Name 533**].
   - continue BB, uptitrate as tolerated
   - add ACEi - start with captopril and uptitrate as possible
   .
   # COPD: Stable
   - nebulizers, O2
   .
   FEN: Speech and Swallow consult, fluid restrict 1500cc, replete lytes
   [**Hospital1 7**], heart healthy low sodium diet
   ACCESS: RIJ from OSH, will plan on getting 2 PIVs or PICC and d/c RIJ
   PROPHYLAXIS: heparin gtt, PPI
   CODE: full
   COMM:  nieces, [**Name2 (NI) 1332**] and [**Name (NI) 419**], No HCP
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-10-28**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-10-30 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIOVERSION/DEFIBRILLATION - At [**2128-10-29**] 11:15 AM cardioverted w/
   100j to SR, given 30 mg propofol
 URINE CULTURE - At [**2128-10-30**] 01:09 AM
   - s/p DCCV on Amiodarone
   - lasix diuresis
   - TTE - severe MR - An eccentric, anteriorly directed jet of severe
   (4+) mitral regurgitation is seen. There is no pericardial effusion.
   No intracardiac thrombus seen. Partial posterior mitral leaflet with
   severe eccentric mitral regurgitation.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2128-10-29**] 10:00 AM
   Fentanyl - [**2128-10-29**] 10:00 AM
   Propofol - [**2128-10-29**] 11:04 AM
   Furosemide (Lasix) - [**2128-10-29**] 11:31 AM
   Heparin Sodium - [**2128-10-29**] 12:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-10-30**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.5
C (95.9
   HR: 71 (69 - 124) bpm
   BP: 141/63(82) {100/37(46) - 157/97(102)} mmHg
   RR: 13 (13 - 22) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                    709 mL
                                                                     75 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                    349 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  2,150 mL
                                                                    675 mL
   Urine:
                                                                  2,150 mL
                                                                    675 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,441 mL
                                                                   -600 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///33/
   Physical Examination
   GEN: NAD
   CV: irregular rhythm, tachycardic, no mrg
   RESP: bibasilar diminished breath sounds
   ABD: S, NT/ND, +BS
   EXT: WWP, 2+ pulses
   Labs / Radiology
   301 K/uL
   12.6 g/dL
   103 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.9 mEq/L
   20 mg/dL
   104 mEq/L
   144 mEq/L
   39.2 %
   9.4 K/uL
        [image002.jpg]
                             [**2128-10-28**]  04:01 PM
                             [**2128-10-29**]  05:17 AM
                             [**2128-10-30**]  12:25 AM
   WBC
   8.2
   9.4
   Hct
   38.0
   42.2
   39.2
   Plt
   351
   301
   Cr
   1.1
   0.9
   0.9
   Glucose
   104
   117
   103
   Other labs: PT / PTT / INR:14.3/75.6/1.2, ALT / AST:28/22, Alk Phos / T
   Bili:75/0.5, Albumin:3.8 g/dL, LDH:226 IU/L, Ca++:9.1 mg/dL, Mg++:2.7
   mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   In brief this is a 74 year old man with history of HTN, COPD and CHF
   who is transfered for management of AF, decompenstated diastolic CHF
   and moderate MR.
   .
   # RHYTHM: Atrial fibrillation: Apparently new onset since [**2128-10-14**],
   however his most recent ECG prior to this was in [**2119**]. Also pt is a
   poor historian. Likely precipitant of afib is CHF exacurbation.
   Alternative etiologies include thyroid dysfunction(normal function on
   OSH labs) and, less likely, infection. Currently on rate/rhythm control
   with BB, digoxin and amiodarone. Anticoagulated with heparin ggt (CHADS
   2, note unclear h/o CVA).  S/P TEE and DCCV.
   - continue rate/rhythm control(lopressor); transition to po regimen
   overnight
   - continue amiodarone 400mg [**Hospital1 7**]
   - heparin/warfarin s/p cardioversion(warfarin pending decision re:
   cath/surgery)
   - D/C dig
   .
   # PUMP:Decompensated diastolic (and possibly systolic if 55% is true,
   with moderate MR <60 = systolic dysfunction) LV dysfunction, on
   presentation at OSH, now nearing euvolemia: The exact etiology of the
   exacurbation is not known. The most concerning precipitant is worsening
   mitral regurgitation, although this may be precipitated by  dietary or
   medication noncompliance or gut edema and poor absorbtion. TTE showed
   preserved systolic function. However, given his severe MR it is
   possible that his has systolic dysfunction as well (and the EF is
   underestimated by TTE since some of the flow is regurgitant). No
   baseline TTE available to determine progression of his LV dysfunction.
   Currently nearing euvolemia. His weight has improved by aprx 30 lb
   since initiation of furosemide ggt.
   - continue diuresis with furosemide 40mg [**Hospital1 7**]; if necessary would add
   metolazone.
   - monitor i/o (goal negative -1L), [**Hospital1 7**] lytes
   - afterload reduction goal SBP<120; continue BB and uptitrate as
   tolerated, captopril.
   .
   # VALVES: Mitral regurgitation: Most likely this is a chronic process
   vs. acute papillary muscle rupture or flail leaflet, although no
   records available to support this.  A history of RHD is not reported.
   No evidence of ischemic disease at OSH to suggest acute MR [**First Name (Titles) 3415**]
[**Last Name (Titles) 11268**]ary mm rupture, but he has not been evaluated in past.   TEE - No
   intracardiac thrombus seen. Partial posterior mitral leaflet with
   severe eccentric mitral regurgitation.
   - consider LHC to eval for CAD
   - CT [**Doctor First Name 213**] c/s once MS clears
   .
   # CORONARIES: No prior history of CAD, EKG without evidence of ischemia
   current or prior.
   - plan for cardiac cath
   - check lipid panel, HBA1c to risk stratify.
   - continue aspirin, BB, increase ACE-I
   - lisinopril in AM
   .
   # Delirium: Disoriented and combative in the setting of acute illness.
   Likely ICU delirium vs. toxic metabolic cause. Possibly medication
   induced.  Patient lives alone and had poor grooming on admission at
   OSH.  Per sister, patient is independent at baseline.
   - regulate sleep/wake cycle
   - monitor metabolic and blood profiles
   - RPR, B12, folate WNL
   - haldol if needed for acute agitation, would avoid benzos if at all
   possible
   - PRN seroquel QHS, avoid restraints
   - PT consult for OOB to chair
   .
   # HTN: Blood pressure waxing and [**Doctor Last Name 533**].
   - continue BB, uptitrate as tolerated
   - add ACEi - start with captopril and uptitrate as possible
   - Lisinopril in AM
   .
   # COPD: Stable
   - nebulizers, O2
   .
   FEN: Speech and Swallow consult, fluid restrict 1500cc, replete lytes
   [**Hospital1 7**], heart healthy low sodium diet
   ACCESS: RIJ from OSH, will plan on getting 2 PIVs or PICC and d/c RIJ
   PROPHYLAXIS: heparin gtt, PPI
   CODE: full
   COMM:  nieces, [**Name2 (NI) 1332**] and [**Name (NI) 419**], No HCP
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-10-28**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-10-31 06:44:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-30**]
   - agitated in evening, pulling at lines
   - EKG checked, QT ok, given haldol x 1
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2128-10-30**] 09:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-10-31**] 06:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 74 (68 - 76) bpm
   BP: 153/67(88) {127/55(73) - 153/83(98)} mmHg
   RR: 17 (12 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  1,061 mL
                                                                    399 mL
   PO:
                                                                    700 mL
                                                                    300 mL
   TF:
   IVF:
                                                                    361 mL
                                                                     99 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    505 mL
   Urine:
                                                                  1,950 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -889 mL
                                                                   -106 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///33/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   321 K/uL
   13.2 g/dL
   107 mg/dL
   1.0 mg/dL
   33 mEq/L
   4.6 mEq/L
   18 mg/dL
   105 mEq/L
   145 mEq/L
   39.8 %
   10.0 K/uL
        [image002.jpg]
                             [**2128-10-28**]  04:01 PM
                             [**2128-10-29**]  05:17 AM
                             [**2128-10-30**]  12:25 AM
                             [**2128-10-30**]  07:46 PM
                             [**2128-10-31**]  03:37 AM
   WBC
   8.2
   9.4
   10.0
   Hct
   38.0
   42.2
   39.2
   39.8
   Plt
   [**Telephone/Fax (3) 11325**]
   Cr
   1.1
   0.9
   0.9
   1.0
   1.0
   Glucose
   104
   117
   103
   137
   107
   Other labs: PT / PTT / INR:13.4/99.7/1.1, ALT / AST:28/22, Alk Phos / T
   Bili:75/0.5, Albumin:3.8 g/dL, LDH:226 IU/L, Ca++:9.9 mg/dL, Mg++:2.5
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Assessment and Plan
   In brief this is a 74 year old man with history of HTN, COPD and CHF
   who is transfered for management of AF, decompenstated diastolic CHF
   and moderate MR.
   .
   # RHYTHM: Atrial fibrillation: Apparently new onset since [**2128-10-14**],
   however his most recent ECG prior to this was in [**2119**]. Also pt is a
   poor historian. Likely precipitant of afib is CHF exacurbation.
   Alternative etiologies include thyroid dysfunction(normal function on
   OSH labs) and, less likely, infection. Currently on rate/rhythm control
   with BB, digoxin and amiodarone. Anticoagulated with heparin gtt (CHADS
   2, note unclear h/o CVA).  S/P TEE and DCCV.
   - on PO metoprolol for rate-control
   - as patient is likely sufficiently loaded on amiodarone, switch to 200
   mg po qday
   - heparin/warfarin s/p cardioversion(warfarin pending decision re:
   cath/surgery)
   - D/C
d dig
   .
   # PUMP:Decompensated diastolic (and possibly systolic if 55% is true,
   with moderate MR <60 = systolic dysfunction) LV dysfunction, on
   presentation at OSH, now nearing euvolemia: The exact etiology of the
   exacerbation is not known. The most concerning precipitant is worsening
   mitral regurgitation, although this may be precipitated by  dietary or
   medication noncompliance or gut edema and poor absorbtion. TTE showed
   preserved systolic function. However, given his severe MR it is
   possible that his has systolic dysfunction as well (and the EF is
   underestimated by TTE since some of the flow is regurgitant). No
   baseline TTE available to determine progression of his LV dysfunction.
   Currently nearing euvolemia. His weight has improved by aprx 30 lb
   since initiation of furosemide ggt.
   - continue diuresis with furosemide 40mg [**Hospital1 7**]; if necessary would add
   metolazone.
   - monitor i/o (goal negative -1L), [**Hospital1 7**] lytes
   - afterload reduction goal SBP<120; currently on BB, ACEI (lisinopril)
   .
   # VALVES: Mitral regurgitation: Most likely this is a chronic process
   vs. acute papillary muscle rupture or flail leaflet, although no
   records available to support this.  A history of RHD is not reported.
   No evidence of ischemic disease at OSH to suggest acute MR [**First Name (Titles) 3415**]
[**Last Name (Titles) 11268**]ary mm rupture, but he has not been evaluated in past.   TEE - No
   intracardiac thrombus seen. Partial posterior mitral leaflet with
   severe eccentric mitral regurgitation.
   - consider LHC to eval for CAD
   - CT [**Doctor First Name 213**] c/s once MS clears
   - D/W Dr. [**First Name (STitle) 2922**]
   .
   # CORONARIES: No prior history of CAD, EKG without evidence of ischemia
   current or prior.
   - plan for cardiac cath
   - check lipid panel, HBA1c to risk stratify. (TC-190, TG-192, HDL
   A1C-P
   - continue aspirin, BB, ACEI
   .
   # Delirium: Disoriented and combative in the setting of acute illness.
   Likely ICU delirium vs. toxic metabolic cause. Possibly medication
   induced.  Patient lives alone and had poor grooming on admission at
   OSH.  Per sister, patient is independent at baseline.
   - regulate sleep/wake cycle
 need haldol o/n
   - seroquel QHS, avoid restraints
   - monitor metabolic and blood profiles
   - RPR, B12, folate WNL
   - haldol if needed for acute agitation, would avoid benzos if at all
   possible
   - PT consult for OOB to chair
   .
   # HTN: Blood pressure waxing and [**Doctor Last Name 533**].
   - continue BB, uptitrate as tolerated
   - Lisinopril added today
   .
   # COPD: Stable
   - nebulizers, O2
   .
   FEN: Speech and Swallow consult, fluid restrict 1500cc, replete lytes
   [**Hospital1 7**], heart healthy low sodium diet
   ACCESS: RIJ from OSH, will plan on getting 2 PIVs or PICC and d/c RIJ
   PROPHYLAXIS: heparin gtt, PPI
   CODE: full
   COMM:  nieces, [**Name2 (NI) 1332**] and [**Name (NI) 419**], No HCP
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-10-28**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 11097**].
   I would add the following remarks:
   History
   Agitated at night requiring Haldol.
   Maintaining NSR.
   Negative around 1 L on Lasix.
   Disoriented at times.
   Physical Examination
   No resp distress.
   Medical Decision Making
   Discuss plans with Dr [**Last Name (STitle) 7981**] and CT surgery.
   Possible cath this admission vs rehab stay to see if mental status will
   improve enough to consider mitral surgery.
   Amio dose reduced.  Lisinopril incr.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 20**] [**Last Name (NamePattern1) 2736**], MD
   on:[**2128-10-31**] 09:20 ------

2128-11-01 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - somnolent all day, serial ABGs indicated some CO2 retention, pt was
   placed on BIPAP and improved somewhat
   - mental status gradually cleared through the day, with patient back to
   baseline orientation x2
   - bolused D5W to correct developing free water deficit
   - lasix 40 mg IV x 2 to continue diuresis
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2128-10-31**] 09:01 AM
   Furosemide (Lasix) - [**2128-10-31**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-11-1**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37
C (98.6
   HR: 79 (67 - 86) bpm
   BP: 140/94(102) {100/43(56) - 150/94(102)} mmHg
   RR: 18 (15 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  1,430 mL
                                                                    103 mL
   PO:
                                                                    570 mL
             TF:
   IVF:
                                                                    860 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  2,100 mL
                                                                    320 mL
   Urine:
                                                                  2,100 mL
                                                                    320 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -670 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 679 (679 - 679) mL
   PS : 12 cmH2O
   RR (Spontaneous): 26
   PEEP: 12 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.35/68/112//9
   Ve: 7 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GEN: NAD
   CV: RRR s mrg
   RESP: bibasilar diminished breath sounds
   ABD: S, NT/ND, +BS
   EXT: WWP, 2+ pulses
   Labs / Radiology
   307 K/uL
   13.1 g/dL
   98 mg/dL
   0.8 mg/dL
   33 mEq/L
   4.0 mEq/L
   15 mg/dL
   106 mEq/L
   147 mEq/L
   40.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2128-10-28**]  04:01 PM
                             [**2128-10-29**]  05:17 AM
                             [**2128-10-30**]  12:25 AM
                             [**2128-10-30**]  07:46 PM
                             [**2128-10-31**]  03:37 AM
                             [**2128-10-31**]  12:40 PM
                             [**2128-10-31**]  02:10 PM
                             [**2128-10-31**]  04:54 PM
                             [**2128-11-1**]  06:17 AM
   WBC
   8.2
   9.4
   10.0
   7.7
   Hct
   38.0
   42.2
   39.2
   39.8
   40.2
   Plt
   [**Telephone/Fax (3) 11355**]07
   Cr
   1.1
   0.9
   0.9
   1.0
   1.0
   0.8
   TCO2
   40
   39
   Glucose
   104
   117
   103
   137
   107
   98
   Other labs: PT / PTT / INR:13.4/99.7/1.1, ALT / AST:28/22, Alk Phos / T
   Bili:75/0.5, Albumin:3.8 g/dL, LDH:226 IU/L, Ca++:9.9 mg/dL, Mg++:2.5
   mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   In brief this is a 74 year old man with history of HTN, COPD and CHF
   who is transfered for management of AF, decompenstated diastolic CHF
   and moderate MR.
   .
   # RHYTHM: Atrial fibrillation: Apparently new onset since [**2128-10-14**],
   however his most recent ECG prior to this was in [**2119**]. Also pt is a
   poor historian. Likely precipitant of afib is CHF exacurbation.
   Alternative etiologies include thyroid dysfunction(normal function on
   OSH labs) and, less likely, infection. Currently on rate/rhythm control
   with BB, digoxin and amiodarone. Anticoagulated with heparin gtt (CHADS
   2, note unclear h/o CVA).  S/P TEE and DCCV.
   - on PO metoprolol for rate-control
   - as patient is likely sufficiently loaded on amiodarone, switch to 200
   mg po qday
   - heparin/warfarin s/p cardioversion(warfarin pending decision re:
   cath/surgery)
   - D/C
d dig
   .
   # PUMP:Decompensated diastolic (and possibly systolic if 55% is true,
   with moderate MR <60 = systolic dysfunction) LV dysfunction, on
   presentation at OSH, now nearing euvolemia: The exact etiology of the
   exacerbation is not known. The most concerning precipitant is worsening
   mitral regurgitation, although this may be precipitated by  dietary or
   medication noncompliance or gut edema and poor absorbtion. TTE showed
   preserved systolic function. However, given his severe MR it is
   possible that his has systolic dysfunction as well (and the EF is
   underestimated by TTE since some of the flow is regurgitant). No
   baseline TTE available to determine progression of his LV dysfunction.
   Currently nearing euvolemia. His weight has improved by aprx 30 lb
   since initiation of furosemide ggt.
   - continue diuresis with furosemide 60mg PO daily; if necessary would
   add metolazone.
   - monitor i/o (goal negative -1L), [**Hospital1 7**] lytes
   - afterload reduction goal SBP<120; currently on BB, ACEI (lisinopril)
   .
   # VALVES: Mitral regurgitation: Most likely this is a chronic process
   vs. acute papillary muscle rupture or flail leaflet, although no
   records available to support this.  A history of RHD is not reported.
   No evidence of ischemic disease at OSH to suggest acute MR [**First Name (Titles) 3415**]
[**Last Name (Titles) 11268**]ary mm rupture, but he has not been evaluated in past.   TEE - No
   intracardiac thrombus seen. Partial posterior mitral leaflet with
   severe eccentric mitral regurgitation.
   - consider LHC to eval for CAD
   - CT [**Doctor First Name 213**] c/s once MS clears
   - D/W Dr. [**First Name (STitle) 2922**]
 cath
   .
   # CORONARIES: No prior history of CAD, EKG without evidence of ischemia
   current or prior.
   - plan for cardiac cath
   - check lipid panel, HBA1c to risk stratify. (TC-190, TG-192, HDL
   A1C-P
   - continue aspirin, BB, ACEI
   .
   # Delirium: Disoriented and combative in the setting of acute illness.
   Likely ICU delirium vs. toxic metabolic cause. Possibly medication
   induced.  Patient lives alone and had poor grooming on admission at
   OSH.  Per sister, patient is independent at baseline.
   - regulate sleep/wake cycle
 need haldol o/n
   - seroquel QHS, avoid restraints
   - monitor metabolic and blood profiles (possible high co2 retention
   55-60 pCO2 regularly)
 NIVV if necessary
   - RPR, B12, folate WNL
   - haldol if needed for acute agitation, would avoid benzos if at all
   possible
   - PT consult for OOB to chair
   .
   # HTN: Blood pressure waxing and [**Doctor Last Name 533**].
   - continue BB, uptitrate as tolerated
   - Lisinopril added today
   .
   # COPD: Stable
   - nebulizers, O2
   .
   FEN: Speech and Swallow consult, fluid restrict 1500cc, replete lytes
   [**Hospital1 7**], heart healthy low sodium diet
   ACCESS: RIJ from OSH, will plan on getting 2 PIVs or PICC and d/c RIJ
   PROPHYLAXIS: heparin gtt, PPI
   CODE: full
   COMM:  nieces, [**Name2 (NI) 1332**] and [**Name (NI) 419**], No HCP
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-10-28**] 05:39 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-11-02 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - cardiac surgery - not a candidate for surgery need to optimize first.
   - mental status relatively unchanged.
   - hypernatremia has resolved.
   - delirious at 2:25am, pulled out IV, had to be restrained, given
   zyprexa x1.
   - purulent urethral discharge noted this AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-11-2**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36
C (96.8
   HR: 74 (71 - 90) bpm
   BP: 144/64(84) {113/54(77) - 157/84(102)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                  1,672 mL
                                                                     38 mL
   PO:
                                                                    810 mL
             TF:
   IVF:
                                                                    862 mL
                                                                     38 mL
   Blood products:
   Total out:
                                                                  1,515 mL
                                                                    590 mL
   Urine:
                                                                  1,515 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    157 mL
                                                                   -553 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   GEN: NAD
   CV: RRR s mrg
   RESP: CTA on limited anterior exam
   ABD: S, NT/ND, +BS
   EXT: WWP, 2+ pulses
   Labs / Radiology
   307 K/uL
   13.1 g/dL
   193 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.6 mEq/L
   14 mg/dL
   100 mEq/L
   139 mEq/L
   40.2 %
   7.7 K/uL
        [image002.jpg]
                             [**2128-10-28**]  04:01 PM
                             [**2128-10-29**]  05:17 AM
                             [**2128-10-30**]  12:25 AM
                             [**2128-10-30**]  07:46 PM
                             [**2128-10-31**]  03:37 AM
                             [**2128-10-31**]  12:40 PM
                             [**2128-10-31**]  02:10 PM
                             [**2128-10-31**]  04:54 PM
                             [**2128-11-1**]  06:17 AM
                             [**2128-11-1**]  06:34 PM
   WBC
   8.2
   9.4
   10.0
   7.7
   Hct
   38.0
   42.2
   39.2
   39.8
   40.2
   Plt
   [**Telephone/Fax (3) 11355**]07
   Cr
   1.1
   0.9
   0.9
   1.0
   1.0
   0.8
   0.9
   0.9
   TCO2
   40
   39
   Glucose
   104
   117
   103
   137
   107
   98
   96
   193
   Other labs: PT / PTT / INR:13.3/96.4/1.1, ALT / AST:28/22, Alk Phos / T
   Bili:75/0.5, Albumin:3.8 g/dL, LDH:226 IU/L, Ca++:9.2 mg/dL, Mg++:2.2
   mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   In brief this is a 74 year old man with history of HTN, COPD and CHF
   who is transfered for management of AF, decompenstated diastolic CHF
   and moderate MR.
   .
   # RHYTHM: Atrial fibrillation: Apparently new onset since [**2128-10-14**],
   however his most recent ECG prior to this was in [**2119**]. Also pt is a
   poor historian. Likely precipitant of afib is CHF exacurbation.
   Alternative etiologies include thyroid dysfunction(normal function on
   OSH labs) and, less likely, infection. Currently on rate/rhythm control
   with BB, digoxin and amiodarone. Anticoagulated with heparin gtt (CHADS
   2, note unclear h/o CVA).  S/P TEE and DCCV.
   - on PO metoprolol for rate-control
   - continue amiodarone 200 mg po qday
   - heparin/warfarin s/p cardioversion(warfarin pending decision re:
   cath/surgery)
   .
   # PUMP:Decompensated diastolic (and possibly systolic if 55% is true,
   with moderate MR <60 = systolic dysfunction) LV dysfunction, on
   presentation at OSH, now nearing euvolemia: The exact etiology of the
   exacerbation is not known. The most concerning precipitant is worsening
   mitral regurgitation, although this may be precipitated by  dietary or
   medication noncompliance or gut edema and poor absorbtion. TTE showed
   preserved systolic function. However, given his severe MR it is
   possible that his has systolic dysfunction as well (and the EF is
   underestimated by TTE since some of the flow is regurgitant). No
   baseline TTE available to determine progression of his LV dysfunction.
   Currently nearing euvolemia. His weight has improved by aprx 30 lb
   since initiation of furosemide gtt.
   - switch diuresis regimen to to furosemide 60 mg po qday
   - monitor i/o (goal even to slightly negative), [**Hospital1 7**] lytes
   - afterload reduction goal SBP<120; currently on BB, ACEI (lisinopril)
   .
   # VALVES: Mitral regurgitation: Most likely this is a chronic process
   vs. acute papillary muscle rupture or flail leaflet, although no
   records available to support this.  A history of RHD is not reported.
   No evidence of ischemic disease at OSH to suggest acute MR [**First Name (Titles) 3415**]
[**Last Name (Titles) 11268**]ary mm rupture, but he has not been evaluated in past.   TEE - No
   intracardiac thrombus seen. Partial posterior mitral leaflet with
   severe eccentric mitral regurgitation.
   - consider LHC to eval for CAD
   - per CT [**Doctor First Name 213**], not a candidate at this time given AMS, hypercarbia,
   deconditioning
   - will look into mitral valve clip placement as alternate option if
   surgery is not an option
   - D/W Dr. [**Last Name (STitle) 7981**]
 cath
   .
   # CORONARIES: No prior history of CAD, EKG without evidence of ischemia
   current or prior.
   - plan for cardiac cath
   - check lipid panel, HBA1c to risk stratify. (TC-190, TG-192, HDL
 23)
   A1C-5.9
   - continue aspirin, BB, ACEI
   .
   # Delirium: Disoriented and combative in the setting of acute illness.
   Likely ICU delirium vs. toxic metabolic cause. Possibly medication
   induced.  Patient lives alone and had poor grooming on admission at
   OSH.  Per sister, patient is independent at baseline.
   - regulate sleep/wake cycle
 avoid zydis as patient was excessively
   somnolent
   - seroquel QHS, avoid restraints
   - monitor metabolic and blood profiles (possible high co2 retention
   55-60 pCO2 regularly)
 NIPPV if necessary
   - RPR, B12, folate WNL
   - haldol if needed for acute agitation, would avoid benzos if at all
   possible
   - PT consult for OOB to chair
   .
   # HTN: Blood pressure waxing and [**Doctor Last Name 533**].
   - continue BB, uptitrate as tolerated
   - Lisinopril added today
   .
   # COPD: Stable
   - nebulizers, O2
   .
   FEN: heart healthy low sodium diet / replete lytes prn
   ACCESS:
   PROPHYLAXIS: heparin gtt, PPI
   CODE: full
   COMM:  nieces, [**Name2 (NI) 1332**] and [**Name (NI) 419**], No HCP
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2128-11-03 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -somnolence gradually improved throughout the day
   -Did not require BIPAP, blood gas looked decent
   Allergies:
   Penicillins
   Unknown;
   Olanzapine
   Drowsiness/Fati
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-11-3**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 77 (69 - 96) bpm
   BP: 150/77(95) {125/59(74) - 170/87(100)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 109 kg (admission): 107.5 kg
   Height: 72 Inch
             Total In:
                                                                    718 mL
                                                                    103 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    218 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,740 mL
                                                                    355 mL
   Urine:
                                                                  1,740 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,023 mL
                                                                   -252 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: 7.38/63/64/35/8
   Physical Examination
   GEN: NAD
   CV: RRR s mrg
   RESP: CTA on limited anterior exam
   ABD: S, NT/ND, +BS
   EXT: WWP, 2+ pulses
   Labs / Radiology
   310 K/uL
   13.0 g/dL
   98 mg/dL
   0.8 mg/dL
   35 mEq/L
   4.6 mEq/L
   13 mg/dL
   103 mEq/L
   144 mEq/L
   41.7 %
   7.3 K/uL
        [image002.jpg]
                             [**2128-10-31**]  03:37 AM
                             [**2128-10-31**]  12:40 PM
                             [**2128-10-31**]  02:10 PM
                             [**2128-10-31**]  04:54 PM
                             [**2128-11-1**]  06:17 AM
                             [**2128-11-1**]  06:34 PM
                            [**2128-11-2**]  08:19 AM
                            [**2128-11-2**]  02:01 PM
                            [**2128-11-2**]  02:30 PM
                            [**2128-11-3**]  05:53 AM
   WBC
   10.0
   7.7
   9.0
   7.3
   Hct
   39.8
   40.2
   39.9
   41.7
   Plt
   [**Telephone/Fax (3) 11403**]10
   Cr
   1.0
   0.8
   0.9
   0.9
   0.8
   TCO2
   40
   39
   42
   39
   Glucose
   107
   98
   96
   193
   98
   Other labs: PT / PTT / INR:13.0/27.4/1.1, ALT / AST:28/22, Alk Phos / T
   Bili:75/0.5, Lactic Acid:1.4 mmol/L, Albumin:3.8 g/dL, LDH:226 IU/L,
   Ca++:9.4 mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   74 year old man with history of HTN, COPD and CHF who is transfered for
   management of AF, decompenstated diastolic CHF and moderate MR.
   .
   # RHYTHM: Atrial fibrillation: Apparently new onset since [**2128-10-14**],
   however his most recent ECG prior to this was in [**2119**]. Also pt is a
   poor historian. Likely precipitant of afib is CHF exacurbation.
   Alternative etiologies include thyroid dysfunction(normal function on
   OSH labs) and, less likely, infection. Currently on rate/rhythm control
   with BB, digoxin and amiodarone. Anticoagulated with heparin gtt (CHADS
   2, note unclear h/o CVA).  S/P TEE and DCCV.
   - on PO metoprolol for rate-control
   - continue amiodarone 200 mg po qday
   - heparin/warfarin s/p cardioversion(warfarin pending decision re:
   cath/surgery)
   .
   # PUMP:Decompensated diastolic (and possibly systolic if 55% is true,
   with moderate MR <60 = systolic dysfunction) LV dysfunction, on
   presentation at OSH, now nearing euvolemia: The exact etiology of the
   exacerbation is not known. The most concerning precipitant is worsening
   mitral regurgitation, although this may be precipitated by  dietary or
   medication noncompliance or gut edema and poor absorbtion. TTE showed
   preserved systolic function. However, given his severe MR it is
   possible that his has systolic dysfunction as well (and the EF is
   underestimated by TTE since some of the flow is regurgitant). No
   baseline TTE available to determine progression of his LV dysfunction.
   Currently nearing euvolemia. His weight has improved by aprx 30 lb
   since initiation of furosemide gtt.
   - switch diuresis regimen to to furosemide 60 mg po qday
   - monitor i/o (goal even to slightly negative), [**Hospital1 7**] lytes
   - afterload reduction goal SBP<120; currently on BB, ACEI (lisinopril)
   .
   # VALVES: Mitral regurgitation: Most likely this is a chronic process
   vs. acute papillary muscle rupture or flail leaflet, although no
   records available to support this.  A history of RHD is not reported.
   No evidence of ischemic disease at OSH to suggest acute MR [**First Name (Titles) 3415**]
[**Last Name (Titles) 11268**]ary mm rupture, but he has not been evaluated in past.   TEE - No
   intracardiac thrombus seen. Partial posterior mitral leaflet with
   severe eccentric mitral regurgitation.
   - consider LHC to eval for CAD
   - per CT [**Doctor First Name 213**], not a candidate at this time given AMS, hypercarbia,
   deconditioning
   - will look into mitral valve clip placement as alternate option if
   surgery is not an option
   - D/W Dr. [**Last Name (STitle) 7981**]
 cath
   .
   # CORONARIES: No prior history of CAD, EKG without evidence of ischemia
   current or prior.
   - plan for cardiac cath
   - check lipid panel, HBA1c to risk stratify. (TC-190, TG-192, HDL
 23)
   A1C-5.9
   - continue aspirin, BB, ACEI
   .
   # Delirium: Disoriented and combative in the setting of acute illness.
   Likely ICU delirium vs. toxic metabolic cause. Possibly medication
   induced.  Patient lives alone and had poor grooming on admission at
   OSH.  Per sister, patient is independent at baseline.
   - regulate sleep/wake cycle
 avoid zydis as patient was excessively
   somnolent
   - seroquel QHS, avoid restraints
   - monitor metabolic and blood profiles (possible high co2 retention
   55-60 pCO2 regularly)
 NIPPV if necessary
   - RPR, B12, folate WNL
   - haldol if needed for acute agitation, would avoid benzos if at all
   possible
   - PT consult for OOB to chair
   .
   # HTN: Blood pressure waxing and [**Doctor Last Name 533**].
   - continue BB, uptitrate as tolerated
   - Lisinopril added today
   .
   # COPD: Stable
   - nebulizers, O2
   .
   FEN: heart healthy low sodium diet / replete lytes prn
   ACCESS:
   PROPHYLAXIS: heparin gtt, PPI
   CODE: full
   COMM:  nieces, [**Name2 (NI) 1332**] and [**Name (NI) 419**], No HCP
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2128-11-2**] 08:57 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: